US05578607
To a mixture of 2,5-dimethylaniline (20.73 g), glycerin (54.81 g) and arsenic pentoxide hydrate (As2O5.xH2O) (Aldrich, 54% As, 35.06 g) under argon and in a 1 L 3-neck round bottom flask equipped with a mechanical stirrer is carefully added sulfuric acid (51.6 g). The resulting hot solution is then heated at 140°-150° C. for 4 hours. The reaction mixture is then cooled to room temperature and slowly basified to pH=10 by the addition of ammonium hydroxide solution (28-30%). After a period of about 10 minutes the basic solution is acidified to pH=5 by the addition of glacial acetic acid and extracted with methylene chloride (CH2Cl2) (3×500 mL). The organic layer is then washed with water (2×500 mL) and brine (2×500 mL), dried over magnesium sulfate (MgSO4), filtered, and rotary evaporated to yield crude quinoline (31 g) which is flash chromatographed on silica gel eluting with 10% ethyl acetate/hexane. Compound-containing fractions are combined and rotary evaporated to yield 5,8-dimethylquinoline.

reactant | 2,5-dimethylaniline | 20.73 g | CC1=C(N)C=C(C=C1)C | C8H11N
reactant | arsenic pentoxide hydrate | 35.06 g | O.O=[As](=O)O[As](=O)=O
reactant | sulfuric acid | 51.6 g | S(O)(O)(=O)=O | H2O4S
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | glycerin | 54.81 g | OCC(O)CO | C3H8O3
product | quinoline | 31 g | N1=CC=CC2=CC=CC=C12 | C9H7N
